US05541229
4'-[(2-n-Butyl-7-hydroxy-4-methyl-benzimidazol-1-yl)-methyl]-2-aminomethyl-biphenyl
3.3 g (7.1 mmol) of 4'-[(7-benzyloxy-2-n-butyl-4-methyl-benzimidazol-1-yl)-methyl]-2-cyano-biphenyl are dissolved in 100 ml of methanol and hydrogenated at ambient temperature in the presence of 0.5 g of palladium (10% on carbon) at 5 bar of hydrogen. After 3 hours the catalyst is filtered off. 20 ml of 20% strength ammonia in methanol is added to the filtrate and the mixture is hydrogenated again at 70 ° C. in the presence of 0.5 g of Raney nickel at 5 bar of hydrogen. After 4 hours the catalyst is filtered off under suction and the filtrate is evaporated to dryness in vacuum. The crude crystalline product is suspended in ether, filtered under suction, washed using ether and dried in vacuum.

reactant | 4'-[(7-benzyloxy-2-n-butyl-4-methyl-benzimidazol-1-yl)-methyl]-2-cyano-biphenyl | 7.1 mmol, 3.3 g | C(C1=CC=CC=C1)OC1=CC=C(C2=C1N(C(=N2)CCCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C#N)C | C33H31N3O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium | 0.5 g | [Pd] | Pd
product | 4'-[(2-n-Butyl-7-hydroxy-4-methyl-benzimidazol-1-yl)-methyl]-2-aminomethyl-biphenyl | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)CN)C(=CC=C2C)O | C26H29N3O
